US06992087B2
Preparation of 3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 6-methoxyindan-1-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.31, 1.87, 2.59, 2.67, 2.75, 2.87, 2.95, 3.79, 4.55, 5.75, 6.83, 7.19, 7.70; HRMS (FAB) calcd for C18H23N3O+H 298.1919, found 298.1909. Anal. Calcd for C18H23N3O: C, 72.70; H, 7.80; N, 14.13. Found: C, 72.19; H, 7.76; N, 13.84.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 6-methoxyindan-1-amine | COC1=CC=C2CCC(C2=C1)N | C10H13NO
product | 3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCC2=CC=C(C=C12)OC | C18H23N3O
